US06465467B1
Step 1: 3-(Methylsulfonyl)phenol.
The title compound was prepared by a slightly modified literature procedure.* 3-aminophenyl methyl sulfone hydrochloride (1.18 g, 5.70 mmol) was suspended in water/CH2Cl2. The mixture was neutralized with 25% aqueous NaOH. The CH2Cl2 layer was isolated and evaporated to dryness. Aqueous H2SO4 (60%; 10 mL) was added to the residue and the solution was cooled to 0° C. A solution of NaNO2 (0.345 g, 5.00 mmol) in water (5 mL) was added dropwise. The solution was stirred at 0° C. for 30 min. and at 90° C. for 30 min. The reaction mixture was allowed to come to room temperature. Extraction with CH2Cl2, drying (MgSO4), and concentration gave 0.39 g (40%) of the title compound as a solid. MS m/z 172 (M)+. HRMS m/z calcd for C7H8O3S (M)+ 172.0194, found 172.0198.

reactant | 3-aminophenyl methyl sulfone hydrochloride | 5.70 mmol, 1.18 g | Cl.CS(=O)(=O)C1=CC(=CC=C1)N
reactant | NaOH | [OH-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | NaNO2 | 5.00 mmol, 0.345 g | N(=O)[O-].[Na+]
solvent | water CH2Cl2 | O.C(Cl)Cl
solvent | water | 5 mL | O | H2O
product | 3-(Methylsulfonyl)phenol | 0.39 g, 40% | CS(=O)(=O)C=1C=C(C=CC1)O | C7H8O3S
